US05332757
Using an analogous procedure to that described in Example 69, 4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α,α,α-trifluoroacetophenone was reacted with hydroxylamine hydrochloride to give 4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α,α,α-trifluoroacetophenone oxime in 70% yield, m.p. 131°-133° C.;

reactant | 4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α,α,α-trifluoroacetophenone | FC=1C=C(C=C(C1)SC1=CC=C(C=C1)C(C(F)(F)F)=O)C1(CCOCC1)OC | C20H18F4O3S
reactant | hydroxylamine hydrochloride | Cl.NO
product | 4'-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α,α,α-trifluoroacetophenone oxime | 70% yield | FC=1C=C(C=C(C1)SC1=CC=C(C=C1)C(C(F)(F)F)=NO)C1(CCOCC1)OC | C20H19F4NO3S
